US06576627B1
1-(2-Aminoethyl)-4-((2-methyl-1-(3-phenylpropionylamino)propyl)(hydroxyphosphinoyl)oxy)piperidine-4-carboxylic acid
The benzyl 1-(2-benzyloxycarbonylaminoethyl)-4-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)piperidine-4-carboxylate (56 mg) obtained in the above step (f) was dissolved in a mixed solvent of dioxane (1.5 ml) and water (0.5 ml), and then the solution was added with palladium hydroxide (13 mg). The mixture was stirred under a hydrogen atmosphere at room temperature for 3 hours. The reaction mixture was filtered with celite, and then the solvent was evaporated. The residue was purified with HP-20 (Diaion, 40 cc, methanol:water=1:1 to acetone:water=1:4)) to obtain the title compound:1-(2-aminoethyl)-4-((2-methyl-1-(3-phenylpropionylamino)propyl)(hydroxyphosphinoyl)oxy)piperidine-4-carboxylic acid (32 mg, 84%).

reactant | benzyl 1-(2-benzyloxycarbonylaminoethyl)-4-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)piperidine-4-carboxylate | 56 mg | C(C1=CC=CC=C1)OC(=O)NCCN1CCC(CC1)(C(=O)OCC1=CC=CC=C1)OP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C36H46N3O8P
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
catalyst | palladium hydroxide | 13 mg | [OH-].[Pd+2].[OH-]
product | 1-(2-Aminoethyl)-4-((2-methyl-1-(3-phenylpropionylamino)propyl)(hydroxyphosphinoyl)oxy)piperidine-4-carboxylic acid | NCCN1CCC(CC1)(C(=O)O)OP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C21H34N3O6P
